US07259183B2
Preparation of 1-bromo-4-(1-ethylcyclopropyl)-benzene
The title compound was synthesized in analogy to 1-bromo-4-(1-methoxycyclopropyl)-benzene (described in example S89) using 2,4,6-trichlorophenol (580 mg, 2.94 mmol), diethyl zinc (2.94 ml, 1M solution in hexane, 2.94 mmol), CH2I2 (237 μl, 2.94 mmol) and 1-bromo-4-(1-methylenepropyl)-benzene (310 mg, 1.47 mmol). The isolated residue was purified by flash column chromatography (100% pentane) to give 1-bromo-4-(1-ethylcyclopropyl)-benzene (280 mg, 85%) as a colorless oil. 1H NMR (CDCl3, 300 MHz): δ 7.39 (d, J=8.5 Hz, 2H), 7.16 (d, J=8.5 Hz, 2H), 1.55 (q, J=7.5 Hz, 2H), 0.82 (t, J=7.5 Hz, 3H), 0.75-0.71(m, 2H), 0.68-0.64 (m, 2H).

reactant | 1-bromo-4-(1-methoxycyclopropyl)-benzene | BrC1=CC=C(C=C1)C1(CC1)OC | C10H11BrO
reactant | 2,4,6-trichlorophenol | 2.94 mmol, 580 mg | ClC1=C(C(=CC(=C1)Cl)Cl)O | C6H3Cl3O
reactant | diethyl zinc | 2.94 mmol, 1M, 2.94 ml | C(C)[Zn]CC
reactant | CH2I2 | 2.94 mmol, 237 μl | C(I)I | CH2I2
reactant | 1-bromo-4-(1-methylenepropyl)-benzene | 1.47 mmol, 310 mg | BrC1=CC=C(C=C1)C(CC)=C | C10H11Br
product | 1-bromo-4-(1-ethylcyclopropyl)-benzene | 280 mg, 85% | BrC1=CC=C(C=C1)C1(CC1)CC | C11H13Br
